US06797718B2
Ethyl-4-mercaptobenzoate was prepared by treating 4-mercaptobenzoic acid (1.50 g, 9.73 mmol) with ethanol (97 mL) in the presence of catalytic concentrated sulfuric acid under a nitrogen atmosphere. The reaction was heated at reflux for three hours. The volume of the reaction was reduced to 10 mL under reduced pressure and then partitioned between water (100 mL) and ethyl acetate (100 mL). The aqueous layer was extracted with ethyl acetate (3×100 mL), and the combined organic solutions were washed with water (75 mL) and saturated aqueous sodium bicarbonate (2×75 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide an oil. The oil was dissolved in dichloromethane (100 mL), and the resulting solution was extracted with saturated aqueous sodium carbonate (3×100 mL). The combined extracts were washed with dichloromethane (3×50 mL) and then treated with concentrated hydrochloric acid to adjust to pH 7. The solution was then extracted with dichloromethane (3×100 mL), and the combined extracts were washed with water (50 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 1.23 g of ethyl-4-mercaptobenzoate as a colorless oil.

reactant | 4-mercaptobenzoic acid | 9.73 mmol, 1.50 g | SC1=CC=C(C(=O)O)C=C1 | C7H6O2S
reactant | ethanol | 97 mL | C(C)O | C2H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | ethyl-4-mercaptobenzoate | 1.23 g | C(C)OC(C1=CC=C(C=C1)S)=O | C9H10O2S
